US05296495
To a being cooled solution of DL-α-amino-ε-caprolactam (0.83 g) and triethylamine (1.1 ml) in dichloromethane (12 ml), a solution of (5-methoxybenzofuran-2-yl)carbonyl chloride (1.37 g) in dichloromethane (5 ml) was added dropwise below 10° C. After being stirred for 3 hours at ambient temperature, the appeared precipitates was collected by filtration to give DL-α-(5-methoxybenzofuran-2-yl)carbonylamino-ε-caprolactam (1.20 g).

reactant | DL-α-amino-ε-caprolactam | 0.83 g | C1CCNC(=O)C(C1)N | C6H12N2O
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | (5-methoxybenzofuran-2-yl)carbonyl chloride | 1.37 g | COC=1C=CC2=C(C=C(O2)C(=O)Cl)C1 | C10H7ClO3
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | α-(5-methoxybenzofuran-2-yl)carbonylamino-ε-caprolactam | 1.20 g | COC=1C=CC2=C(C=C(O2)C(=O)NC2C(=O)NCCCC2)C1 | C16H18N2O4
